US08084489B2
A solution of 3-({5-[1-allyl-1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester (0.0679 g, 0.116 mmol) in EtOH (2.0 mL) is treated with 10% palladium on carbon (12 mg), flushed with H2, and stirred under 1 atm pressure for 2 h. The mixture is then filtered through Celite® and conc. to provide 3-({5-[1-(2,6-Dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-1-propyl-butyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester (0.0591 g, 86%) as a white foam. MS (ES): 588.4 [M−H]−.

reactant | 3-({5-[1-allyl-1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester | 0.116 mmol, 0.0679 g | COC(CCNC(=O)C=1SC(=CC1)C(CC=C)(COC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(F)(F)F)C)CC=C)=O | C32H34F3NO4S
solvent | EtOH | 2.0 mL | CCO | C2H6O
catalyst | palladium on carbon | 12 mg | [Pd] | Pd
product | 3-({5-[1-(2,6-Dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-1-propyl-butyl]-thiophene-2-carbonyl}-amino)-propionic acid methyl ester | 0.0591 g, 86% | COC(CCNC(=O)C=1SC(=CC1)C(CCC)(CCC)COC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(F)(F)F)C)=O | C32H38F3NO4S
